US07589095B2
D: 4-propyl-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile
To a solution of 2-chloro-4-propyl-6-(3-trifluoromethylphenyl)-pyrimidine (50 mg) in 1-methyl-2-pyrrolidinone (2 mL), was added copper(I) cyanide (60 mg). The suspension was heated in the microwave at 200° C. for 20 min, than poured into a mixture of ethyl acetate (10 mL) and ammonia solution (5 mL). The organic layer was separated, washed with water (10 mL), dried over sodium sulphate and evaporated at reduced pressure. Preparative HPLC afforded the title compound 4-propyl-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile as a brown gum (4.1 mg).

reactant | 2-chloro-4-propyl-6-(3-trifluoromethylphenyl)-pyrimidine | 50 mg | ClC1=NC(=CC(=N1)CCC)C1=CC(=CC=C1)C(F)(F)F | C14H12ClF3N2
reactant | copper(I) cyanide | 60 mg | [Cu]C#N
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | ammonia | 5 mL | N | H3N
solvent | 1-methyl-2-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 4-propyl-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile | 4.1 mg | C(CC)C1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C15H12F3N3
